.SUBCKT gf180mcu_fd_sc_mcu9t5v0__xnor3_2 A1 A2 A3 ZN VDD VDD VSS VSS
*.PININFO A1:I A2:I A3:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!(!((!((A1 * A2) + !(A1 + A2)) * A3) + !(!((A1 * A2) + !(A1 + A2)) + A3)))
M_i_14 I A2 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_15 VSS A1 I VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2 I2 I VSS VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_0 net_0 A1 I2 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_1 VSS A2 net_0 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_18 I3 I2 VSS VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_19 VSS A3 I3 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_10 Z_neg I3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_8 net_2 A3 Z_neg VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_9 VSS I2 net_2 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_6_1 VSS Z_neg ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_6_0 ZN Z_neg VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_16 net_4 A2 I VDD pmos_6p0 W=0.495000U L=0.500000U
M_i_17 VDD A1 net_4 VDD pmos_6p0 W=0.495000U L=0.500000U
M_i_5 net_1 I VDD VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_3 I2 A1 net_1 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_4 net_1 A2 I2 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_20 net_5 I2 I3 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_21 VDD A3 net_5 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_13 net_3 I3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11 Z_neg A3 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_12 net_3 I2 Z_neg VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_1 VDD Z_neg ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_0 ZN Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
